US04634715
A solution of ethyl 4-phenyl-2-oxobutanoate (2.06 g; 10 mmol) and t-butylcarbazate (1.32 g; 10 mmol) in THF (50 ml) can be warmed at reflux for 8 hours. Solvent can be evaporated and the residue taken up in anhydrous ethanol (25 ml). Sodium cyanoborohydride (0.31 g; 5 mmol) can be added, and the solution stirred for 4 hrs. The residue, after evaporation, can be stirred with EtOAc (50 ml) and hydrochloric acid (0.5 N: 20 ml) for 30 minutes. The aqueous layer can be neutralized by addition of K2CO3 and extracted with EtOAc (3×25 ml). The combined organic portions can be washed with H2O and brine and dried (MgSO4). The residue, upon evaporation, can be purified by chromatography on silica gel, affording N-(1-carboethoxy-3-phenylpropyl)-N'-BOC-hydrazine. An ice-cold solution of the above hydrazine in trifluoroacetic acid can be allowed to stand for 1 hr. Removal of solvent can provide hydrazine (56) as the trifluoroacetic acid salt.

reactant | ethyl 4-phenyl-2-oxobutanoate | 10 mmol, 2.06 g | C1(=CC=CC=C1)CCC(C(=O)OCC)=O | C12H14O3
reactant | t-butylcarbazate | 10 mmol, 1.32 g | C(C)(C)(C)OC(NN)=O | C5H12N2O2
reactant | Sodium cyanoborohydride | 5 mmol, 0.31 g | C(#N)[BH3-].[Na+]
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | N-(1-carboethoxy-3-phenylpropyl)-N'-BOC-hydrazine | C(=O)(OCC)C(CCC1=CC=CC=C1)NNC(=O)OC(C)(C)C | C17H26N2O4
